US06800785B1
To a solution of 5-methoxy-1-indanone (1 g, 6.17 mmol) in DMF (6 mL) at rt was added NaH (740 mg, 61% in oil, 18.5 mmol) and 4-bromo-1-butene (2.5 mL, 24.7 mmol). After 20 h at rt, the solution was diluted with CH2Cl2 and quenched with saturated aqueous NH4Cl. The slurry was dried with MgSO4 and filtered through a plug of silica and rinsed with 10% EtOAc in hexanes. The filtrate was concentrated and provided crude 2,2-di(3-butenyl)-5-methoxy-1-indanone.

reactant | 5-methoxy-1-indanone | 6.17 mmol, 1 g | COC=1C=C2CCC(C2=CC1)=O | C10H10O2
reactant | NaH | 18.5 mmol, 740 mg | [H-].[Na+]
reactant | 4-bromo-1-butene | 24.7 mmol, 2.5 mL | BrCCC=C | C4H7Br
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2,2-di(3-butenyl)-5-methoxy-1-indanone | C(CC=C)C1(C(C2=CC=C(C=C2C1)OC)=O)CCC=C | C18H22O2
